US06630509B2
(a) 1-Carbamoyl-2-[4-(2-{4-tert-butyloxycarbonylaminophenyl}ethoxy)phenyl]-1-ethoxyethane
3-{4-[2-(4-tert-Butoxycarbonylamino phenyl}ethoxy]phenyl]-2-ethoxypropanoic acid (1.18 g, 2.75 mmole) and benzotriazol-1-yl-oxytri-pyrrolidinophosphoniumhexafluorophosphate (1.43 g, 2.75 mmole) were dissolved in dry DMF (20 ml). Ammonia gas was bubbled through the mixture for 5 minutes. After stirring at room temperature for 16 hours it was checked using HPLC that all the starting material was consumed. Water was added and extracted three times with ethyl acetate dried with magnesium sulfate and evaporated. The residue was redissolved in dichloromethane and chromatography on silica using a gradient system of dichloromethane:methanol (0-5%) gave 1.04 g (85% yield) of the desired product.

reactant | 3-{4-[2-(4-tert-Butoxycarbonylamino phenyl}ethoxy]phenyl]-2-ethoxypropanoic acid | 2.75 mmole, 1.18 g | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)CCOC1=CC=C(C=C1)CC(C(=O)O)OCC | C24H31NO6
reactant | benzotriazol-1-yl-oxytri-pyrrolidinophosphoniumhexafluorophosphate | 2.75 mmole, 1.43 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | methanol | CO | CH4O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1-Carbamoyl-2-[4-(2-{4-tert-butyloxycarbonylaminophenyl}ethoxy)phenyl]-1-ethoxyethane | 1.04 g, 85% yield | C(N)(=O)C(CC1=CC=C(C=C1)OCCC1=CC=C(C=C1)NC(=O)OC(C)(C)C)OCC | C24H32N2O5
